US04464462
Tolualdehyde (400 g), cyanoacetic acid (311 g), acetic acid (60 ml) and ammonium acetate (25.6 g) were refluxed in ethyl alcohol (1.6 l) for 4 hours with heating. After the reaction, the mixture was concentrated to 600 ml by removing ethyl alcohol under a reduced pressure, followed by pouring into 1 liter of ice water to separate crystals. The separated crystals were collected by suction filtration and recrystallized from 2 liters of ethyl alcohol to obtain 560 g of 2-cyano-3-(4-methylphenyl)acrylic acid which melted at 210° to 215° C. The resulting compound (320 g) and thionyl chloride (252 g) were dissolved in acetonitrile (200 ml) with heating for 1 hour. After the reaction, the acetonitrile and the thionyl chloride were distilled off under a reduced pressure, and the resulting solid was added to a solution consisting of hydroxyethyl methacrylate (244.8 g), pyridine (149 g) and acetonitrile (2 l). The reaction was carried out for 2 hours while keeping the reaction temperature below 40° C. After the reaction, the reaction solution was poured into ice water to separate crystals, and the resulting crystals were recrystallized from ethyl alcohol (3 l) to obtain 360 g of the desired compound which melted at 74° to 75° C.

reactant | Tolualdehyde | 400 g | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | cyanoacetic acid | 311 g | C(#N)CC(=O)O | C3H3NO2
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 25.6 g | C(C)(=O)[O-].[NH4+]
solvent | ethyl alcohol | 1.6 l | C(C)O | C2H6O
product | 2-cyano-3-(4-methylphenyl)acrylic acid | 560 g | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)C | C11H9NO2
